US05922720
13. 2-{[[4-[3-(4-Benzylpiperazin-1-yl)propylthio]-3-methyl-2-pyridinyl]methyl]thio}-5-fluoro-1H-benzimidazole dihydrochloride
According to the procedure indicated in Example 1), reaction of 2-{[[4-(3-chloropropylthio)-3-methyl-2-pyridinyl]methyl]thio}-5-fluoro-1H-benzimidazole with N-benzylpiperazine gives the title compound as a beige powder. Yield 80%, m.p. 130-133° C.

reactant | 2-{[[4-(3-chloropropylthio)-3-methyl-2-pyridinyl]methyl]thio}-5-fluoro-1H-benzimidazole | ClCCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)F)C | C17H17ClFN3S2
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 2-{[[4-[3-(4-Benzylpiperazin-1-yl)propylthio]-3-methyl-2-pyridinyl]methyl]thio}-5-fluoro-1H-benzimidazole dihydrochloride | Yield 80% | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC(=C2)F)C | InChI=1S/C28H32FN5S2.2ClH/c1-21-26(20-36-28-31-24-9-8-23(29)18-25(24)32-28)30-11-10-27(21)35-17-5-12-33-13-15-34(16-14-33)19-22-6-3-2-4-7-22;;/h2-4,6-11,18H,5,12-17,19-20H2,1H3,(H,31,32);2*1H
